US07235581B2
A mixture of 2.73 g (15.4 mmol) of 1-(4-hydroxy-phenyl)-pyrrolidin-2-one, 3.2 g (16.9 mmol) of 3-fluorobenzylbromide and 4.26 g (31 mmol) of potassium carbonate in 100 ml of 2-butanone is heated at 80° C. for 18 hours. After cooling to RT, the reaction mixture is treated with water and ethyl acetate. The organic layer is separated, dried over magnesium sulfate and evaporated under reduced pressure. The solid residue is crystallised from ether to yield 3.86 g (88% of theory) of 1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one as a colorless solid. MS: m/e=286.0 (M+H)+.

reactant | 1-(4-hydroxy-phenyl)-pyrrolidin-2-one | 15.4 mmol, 2.73 g | OC1=CC=C(C=C1)N1C(CCC1)=O | C10H11NO2
reactant | 3-fluorobenzylbromide | 16.9 mmol, 3.2 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | potassium carbonate | 31 mmol, 4.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one | 3.86 g, 88% | FC=1C=C(COC2=CC=C(C=C2)N2C(CCC2)=O)C=CC1 | C17H16FNO2
